US06756378B2
To a stirred solution of 1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)-2-pyrrolidinylmethanol (500 mg, 1.52 mmol), methyl 4-hydroxybenzoate (277 mg, 1.82 mmol), and Ph3P (477 mg, 1.82 mmol) in THF (10 ml) was added DIAD (358 ul, 1.82 mmol), and the mixture was heated at reflux for 5 h. After cooling to room temperature, the mixture was concentrated in vacuo and the residue was chromatographed on silica gel with CHCl3-EtOAc (20:1) as eluent to give methyl 4-[1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)-2-pyrrolidinylmethoxy]benzoate (529 mg, 75%) as a colorless oil. 1H-NMR (CDCl3) δ1.46 (s, 9 H), 2.20-2.47 (m, 2 H), 3.64 (m, 2 H), 3.86 (s, 3 H), 4.07-4.43 (m, 3 H), 4.86 (m, 1 H), 6.74-6.87 (m, 3 H), 6.94 (d, 2 H, J=8.5 Hz), 7.95 (d, 2 H, J=8.5 Hz).

reactant | 1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)-2-pyrrolidinylmethanol | 1.52 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=C(C=C(C=C1)F)F)CO | C16H21F2NO4
reactant | methyl 4-hydroxybenzoate | 1.82 mmol, 277 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | Ph3P | 1.82 mmol, 477 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 1.82 mmol, 358 ul | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | methyl 4-[1-(tert-butoxycarbonyl)-4-(2,4-difluorophenoxy)-2-pyrrolidinylmethoxy]benzoate | 529 mg, 75% | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=C(C=C(C=C1)F)F)COC1=CC=C(C(=O)OC)C=C1 | C24H27F2NO6
